US06884266B2
2-[4-(2-Amino-6-chloropyrimidin-4-ylamino)phenylazo]-1,3-dimethyl-3H-imidazol-1-ium chloride:
0.164 g of 2-amino-4,6-dichloropyrimidine (0.001 mol) and 3 ml of dry DMF, 0.251 g (0.001 mol) of 2-(4-amino-phenylazo)-1,3-dimethyl-3H-imidazol-1-ium chloride and 0.138 g (0.001 mol) of potassium carbonate are charged to a fully equipped round-bottomed flask. The mixture is brought for 17 hours to 80° C. with stirring. After cooling, 4 ml of water are added and the precipitate is filtered off. 100 mg of a red powder containing the starting 2-(4-aminophenylazo)-1,3-dimethyl-3H-imidazol-1-ium chloride and the expected product are obtained. The latter, purified by preparative HPLC, has the following UV absorption characteristics:

reactant | 2-amino-4,6-dichloropyrimidine | 0.001 mol, 0.164 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | 2-(4-amino-phenylazo)-1,3-dimethyl-3H-imidazol-1-ium chloride | 0.001 mol, 0.251 g | [Cl-].NC1=CC=C(C=C1)N=NC1=[N+](C=CN1C)C
reactant | potassium carbonate | 0.001 mol, 0.138 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 4 ml | O | H2O
product | 2-[4-(2-Amino-6-chloropyrimidin-4-ylamino)phenylazo]-1,3-dimethyl-3H-imidazol-1-ium chloride | [Cl-].NC1=NC(=CC(=N1)NC1=CC=C(C=C1)N=NC1=[N+](C=CN1C)C)Cl | InChI=1S/C15H15ClN8.ClH/c1-23-7-8-24(2)15(23)22-21-11-5-3-10(4-6-11)18-13-9-12(16)19-14(17)20-13;/h3-9H,1-2H3,(H2,17,19,20);1H
